US05677470
0.3 ml of isopropenyl methyl ether and 39 mg of pyridinium p-toluenesulfonate were added to a solution of 515 mg of methyl (2R,3S)-3-(2,4-difluorophenyl)-3-tert-butoxycarbonylamino-2-hydroxypropionate dissolved in 30 ml of benzene, and the mixture was stirred at room temperature for 30 minutes. The mixture was further stirred at 90° C. for 30 minutes and then returned to room temperature. 0.3 ml of isopropenyl methyl ether was added to the mixture, and the resulting mixture was stirred at 90° C. for 30 minutes. The mixture was cooled again to room temperature, 0.15 ml of isopropenyl methyl ether was added thereto, and the mixture was stirred at 90° C. for 4 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (solvent; toluene:ethyl acetate=50:1) to obtain 428 mg of methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-(2,4-difluorophenyl)-5-oxazolidinecarboxylate.

reactant | isopropenyl methyl ether | 0.3 ml | COC(=C)C | C4H8O
reactant | pyridinium p-toluenesulfonate | 39 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | methyl (2R,3S)-3-(2,4-difluorophenyl)-3-tert-butoxycarbonylamino-2-hydroxypropionate | 515 mg | FC1=C(C=CC(=C1)F)[C@@H]([C@H](C(=O)OC)O)NC(=O)OC(C)(C)C | C15H19F2NO5
reactant | isopropenyl methyl ether | 0.3 ml | COC(=C)C | C4H8O
reactant | isopropenyl methyl ether | 0.15 ml | COC(=C)C | C4H8O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-(2,4-difluorophenyl)-5-oxazolidinecarboxylate | 428 mg | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=C(C=C(C=C1)F)F)C(=O)OC)(C)C | C18H23F2NO5
